US06670447B2
Synthesis of (S)-3-(3-phenylpropanoyl)-4-methyl-2,5-oxazolidinedione (L-N-(3-phenylpropanoyl)-alanine-NCA) (Compound No. 1019)
(S)-4-methyl-2,5-oxazolidinedione (L-alanine-NCA) (345 mg, 3 mmol) was dissolved in ethyl acetate (20 mL), followed by the addition of 3-phenylpropanoyl chloride (658 mg, 3.9 mmol) under ice cooling. Further, a solution of N-methyl-morpholine (394 mg, 3.9 mmol) in ethyl acetate (10 mL) was added dropwise under ice cooling over 20 minutes, and the resulting mixture was then stirred at the same temperature for 2 hours. The reaction mixture was treated in a similar manner as in Synthesis Process 5 of Example 8 to afford the title compound (408 mg, 55%) as a colorless clear syrup.

reactant | (S)-4-methyl-2,5-oxazolidinedione | 3 mmol, 345 mg | C[C@@H]1NC(OC1=O)=O | C4H5NO3
reactant | 3-phenylpropanoyl chloride | 3.9 mmol, 658 mg | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | N-methyl-morpholine | 3.9 mmol, 394 mg | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-(3-phenylpropanoyl)-4-methyl-2,5-oxazolidinedione | 408 mg, 55% | C1(=CC=CC=C1)CCC(=O)N1C(OC([C@@H]1C)=O)=O | C13H13NO4
